US04220795
C. Preparation of 1-Butylcyclobutanecarboxylic acid
The title compound was prepared as in Example 2A by replacing 3-ethylcyclobutanecarboxylic acid and methyl iodide respectively with cyclobutanecarboxylic acid and 1-iodobutane (Aldrich Chemical Company; Beilstein 1: 123). The resultant product had the following physical characterisics:

reactant | 3-ethylcyclobutanecarboxylic acid | C(C)C1CC(C1)C(=O)O | C7H12O2
reactant | methyl iodide | CI | CH3I
reactant | cyclobutanecarboxylic acid | C1(CCC1)C(=O)O | C5H8O2
reactant | 1-iodobutane | ICCCC | C4H9I
product | 1-Butylcyclobutanecarboxylic acid | C(CCC)C1(CCC1)C(=O)O | C9H16O2
